US06881733B1
A mixture of 0.5 gm (2.53 mMol) 4,5-difluorobenzofur-7-ylboronic acid, 0.872 gm (2.53 mMol) 1-(tert-butoxycarbonyl)-2-methyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine, 0.806 gm (3.8 mMol) potassium phosphate, and 0.146 gm (0.127 mMol) tetrakis(triphenylphosphino)palladium in 10 mL tetrahydrofuran was placed under vacuum and pressurized with nitrogen three times to exclude oxygen. The reaction mixture was heated at reflux for 3 hours and was then poured into 250 mL diethyl ether and filtered through a pad of celite. The filter pad was washed with 200 mL diethyl ether and the combined filtrates were concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with hexane followed by 9% ethyl acetate in hexane. Fractions containing the desired product were combined and concentrated under reduced pressure to provide 0.65 gm (74%) 1-(tert-butoxycarbonyl)-2-methyl-4-(4,5-difluorobenzofur-7-yl)-1,2,3,6-tetrahydropyridine. A solution of 0.62 gm (1.77 mMol) 1-(tert-butoxycarbonyl)-2-methyl-4-(4,5-difluorobenzofur-7-yl)-1,2,3,6-tetrahydropyridine in 10 mL 4 M hydrogen chloride in dioxane was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure and the residue slurried in diethyl ether to provide 0.44 gm (86%) of the title compound.

reactant | 4,5-difluorobenzofur-7-ylboronic acid | 2.53 mMol, 0.5 gm | FC1=C(C=C(C2=C1C=CO2)B(O)O)F | C8H5BF2O3
reactant | 1-(tert-butoxycarbonyl)-2-methyl-4-trifluoromethanesulfonyloxy-1,2,3,6-tetrahydropyridine | 2.53 mMol, 0.872 gm | C(C)(C)(C)OC(=O)N1C(CC(=CC1)OS(=O)(=O)C(F)(F)F)C | C12H18F3NO5S
reactant | potassium phosphate | 3.8 mMol, 0.806 gm | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | oxygen | O=O | O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphino)palladium | 0.127 mMol, 0.146 gm | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
product | 1-(tert-butoxycarbonyl)-2-methyl-4-(4,5-difluorobenzofur-7-yl)-1,2,3,6-tetrahydropyridine | 0.65 gm, 74% | C(C)(C)(C)OC(=O)N1C(CC(=CC1)C1=CC(=C(C=2C=COC21)F)F)C | C19H21F2NO3
